US07132436B2
2,4-Dichloro-6-methyl-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(3-pyridyl)-1,3-thiazol-2-amine and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (17.6 mg) with purity >90%. MS (pos) m/z 400.0,402.0.

reactant | 4-(3-pyridyl)-1,3-thiazol-2-amine | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-6-methyl-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC=C(N1)C=1C=NC=CC1 | C15H11Cl2N3O2S2
